US09169259B2
A mixture of 6-fluoropyridin-2-amine (0.5 g, 4.46 mmol) and 2-ethylpyrrolidine (0.664 g, 6.7 mmol) in water (0.3 mL) was heated to 205° C. for 0.5 h in a microwave oven then concentrated in vacuo. The residue was purified by chromatography (silica gel, 10 g, 200˜300 mesh, ethyl acetate:petroleum ether=1:30) to afford 6-(2-ethylpyrrolidin-1-yl)pyridin-2-amine (0.57 g, 67%) as a yellow oil. LC-MS: [M+1]+=192, tR=1.100 min.

reactant | 6-fluoropyridin-2-amine | 4.46 mmol, 0.5 g | FC1=CC=CC(=N1)N | C5H5FN2
reactant | 2-ethylpyrrolidine | 6.7 mmol, 0.664 g | C(C)C1NCCC1 | C6H13N
solvent | water | 0.3 mL | O | H2O
product | 6-(2-ethylpyrrolidin-1-yl)pyridin-2-amine | 0.57 g, 67% | C(C)C1N(CCC1)C1=CC=CC(=N1)N | C11H17N3
